US08242104B2
To a solution of 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (500 mg, 2.22 mmol) in THF (5 mL) at −78° C. was added 1M LiHMDS in THF (2.44 mL, 2.44 mmol) dropwise. The resulting mixture was stirred at −78° C. for 1 h before the addition of a solution of N-phenylbis(trifluoromethanesulfonimide) (872 mg, 2.44 mmol) in THF (5 mL) dropwise. The reaction mixture was stirred at −78° C. for 4 h before being quenched with saturated sodium bicarbonate solution. The mixture was extracted with ethyl acetate, dried (MgSO4) and concentrated in vacuo before being subjected to flash chromatography (SiO2, gradient 0-40% ethyl acetate in cyclohexane). The resultant residue was further purified by flash chromatography (SiO2, gradient 0-100% DCM in cyclohexane) to give 3-trifluoromethanesulfonyloxy-8-aza-bicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester (402 mg, 0.56 mmol, 25%). 1H NMR 400 MHz (CDCl3) δ: 6.11 (1H, s), 4.48 (2H, m), 3.02 (1H, m), 2.26 (1H, m), 2.13 (1H, m), 2.09 (1H, m), 2.04 (1H, m), 2.03 (1H, s), 1.48 (9H, s)

reactant | 3-oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 2.22 mmol, 500 mg | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=O | C12H19NO3
reactant | LiHMDS | 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | N-phenylbis(trifluoromethanesulfonimide) | 2.44 mmol, 872 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.44 mmol, 2.44 mL | C1CCOC1 | C4H8O
product | 3-trifluoromethanesulfonyloxy-8-aza-bicyclo[3.2.1]oct-2-ene-8-carboxylic acid tert-butyl ester | 0.56 mmol, 402 mg, 25% | C(C)(C)(C)OC(=O)N1C2C=C(CC1CC2)OS(=O)(=O)C(F)(F)F | C13H18F3NO5S
